Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 nausea/vomiting  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M w/ history of CKD IV (GFR 16) undergoing
transplant evaluation, planning to start PD, T2DM, who presents
as a transfer from ___ for N/V, hyperglycemia,
NSTEMI.  

Mr. ___ initially presented to ___ for 4 days of
nausea/vomiting with one day of red/pink tinge to vomiting. He
has been unable to tolerate PO including his medications as a
result of these symptoms. He also reports that he had not taken
any of his insulin in 3 days given these symptoms and inability
to eat anything. He otherwise denies any fevers, chills, chest
pain, dyspnea. No frank hematemesis. No EtOH use. 
 
At ___:  
 - Initial vitals: hypertensive to 220s/110s  
 - Was given IV hydralazine, IV labetalol with improvement to
SBPs 120s  
 - Notable labs: troponin-I of 0.14, BG 414, BMP notable for Cr
5.4 up from baseline of ~3. Otherwise no electrolyte
abnormalities reported.  
 - Patient additionally given 8u regular insulin, protonix IV  
Patient additionally reportedly had a near syncopal episode
during transfer.  

In ___ ED:  
 - Initial vital signs were notable for: 
96.7 HR 71 BP 110/88 RR 17 95% RA FSBS 392 

 - Exam notable for: 

well appearing overall, no remarkable findings  
 - Labs were notable for: 
     10.0
16.4>-----<217
    30.8
 
___: 11.9  PTT: 20.6  INR: 1.1  

145 | 113 | 87 
-----------------< 365
4.1 | 18  | 5.7

Ca: 8.6 Mg: 2.2 P: 6.1

LFTs wnl except albumin 2.4. 
Trop 0.09 (MB 4) -> Trop 0.10 (MB 4). 

Lactate 1.1.  

 - Urinalysis: 
sm blood, prot 600, glucose 1000, trace ketones, few bacteria,
WBC 2, neg leuks, neg nitrites, <1 epi  

 - VBG ___  

 - EKG notable for NSR, TWI in I, aVL. T-wave flatting in the
lateral leads.  

 - Patient was given: 
___ 03:18 SC Insulin Lispro 10 UNIT 
___ 06:03 IVF  NS  
___ 07:08 PO Rosuvastatin Calcium 20 mg  
___ 07:08 PO/NG HydrALAZINE 100 mg   
___ 07:08 PO Metoprolol Succinate XL 150 mg   
___ 07:13 PO/NG Aspirin 81 mg 
___ 08:00 PO/NG Aspirin  
___ 08:54 IVF  NS 500 mL   
___ 10:00 SC Insulin 4 Units  
___ 10:00 PO Ondansetron ODT 4 mg 
___ 12:00 SC Insulin  
___ 14:10 IVF  LR  
___ 16:00 IVF  LR ( 1000 mL ordered) 
___ 16:28 IVF  LR 1000 mL   
___ 16:39 PO/NG HydrALAZINE 100 mg 
___ 16:39 IV Ondansetron 4 mg 
___ 16:39 PO/NG Acetaminophen 650 mg 
___ 19:49 SC Insulin 10 UNIT 
___ 19:49 SC Insulin 6 Units 
___ 19:49 IVF  LR  continued at 100 mL/hr 

 - Consults:  
 Vitals on transfer: 

 Upon arrival to the floor, patient denies any chest pain,
shortness of breath. States that nausea/vomiting have resolved. 
 
 REVIEW OF SYSTEMS: Complete 10pt ROS obtained and is otherwise
negative.  

 
Past Medical History:
 T2DM (diagnosed at age ___, on insulin) c/b retinopathy, CKD  
 Transplant Candidate  
 - Currently inactive on the list pending cardiac catherization
after dialysis.  
 HLD  
 HTN  
 Obesity  
 GERD  
 Macular edema  
 OSA on CPAP  
 No history of heart disease, stroke, lung disease, liver
disease,  
 cancer or tuberculosis.
 
Social History:
___
Family History:
Mother ___ living with asthma  
Father ___ deceased, lung cancer  
Brother, two sons all living and well 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  ___ Temp: 98.0 PO BP: 183/103 HR: 72 RR: 18
O2 sat: 97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT, MMM  
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: rrr, no m/r/g
LUNGS: Clear to auscultation bilaterally 
BACK:  No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants  
EXTREMITIES: No clubbing, cyanosis. Trace ___ edema. Pulses
DP/Radial 2+ bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.  

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 824)
    Temp: 98.6 (Tm 98.8), BP: 166/89 (143-168/72-89), HR: 87
(56-87), RR: 18, O2 sat: 97% (97-987), O2 delivery: Ra, Wt: 
249.8
lb/113.31 kg  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT, MMM  
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: RRR, no m/r/g
LUNGS: Clear to auscultation bilaterally 
BACK:  No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants  
EXTREMITIES: No clubbing, cyanosis. Trace ___ edema. Pulses
DP/Radial 2+ bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.  
 
Pertinent Results:
ADMISSION LABS
===============
___ 02:42AM BLOOD WBC-16.4* RBC-3.45* Hgb-10.0* Hct-30.8* 
MCV-89 MCH-29.0 MCHC-32.5 RDW-13.2 RDWSD-43.0 Plt ___
___ 02:42AM BLOOD ___ PTT-20.6* ___
___ 02:42AM BLOOD Glucose-365* UreaN-87* Creat-5.7* Na-145 
K-4.1 Cl-113* HCO3-18* AnGap-14
___ 02:42AM BLOOD ALT-9 AST-9 CK(CPK)-84 AlkPhos-81 
TotBili-0.4
___ 02:42AM BLOOD CK-MB-4 cTropnT-0.09*
___ 06:09AM BLOOD CK-MB-4 cTropnT-0.10*
___ 06:20AM BLOOD cTropnT-0.07*
___ 02:42AM BLOOD Albumin-2.4* Calcium-8.6 Phos-6.1* Mg-2.2
___ 02:50AM BLOOD Lactate-1.1
___ 06:22AM BLOOD ___ pO2-92 pCO2-38 pH-7.37 
calTCO2-23 Base XS--2 Comment-GREEN TOP 

DISCHARGE LABS
===============
___ 07:40AM BLOOD WBC-7.5 RBC-3.73* Hgb-11.0* Hct-33.3* 
MCV-89 MCH-29.5 MCHC-33.0 RDW-12.5 RDWSD-40.8 Plt ___
___ 07:40AM BLOOD Glucose-78 UreaN-61* Creat-4.9* Na-142 
K-3.4* Cl-109* HCO3-22 AnGap-11
___ 07:40AM BLOOD Calcium-8.0* Phos-4.9* Mg-1.9

IMAGING/STUDIES
================
CT A/P w/o contrast  ___
1. There is bilateral symmetric perinephric stranding, a 
nonspecific finding. There is no hydronephrosis or renal stones 
bilaterally.  
2. Mildly ectatic bilateral common iliac arteries, measuring up
to 1.6 cm on the right and 1.7 cm on the left.  
3. Multiple conspicuous although not pathologically enlarged 
retroperitoneal periaortic lymph nodes, a nonspecific finding. 
 
Brief Hospital Course:
___ w/ history of CKD on transplant list, T2DM, transferred from 
___ for 4 days of nausea/vomiting ___ to presumed 
gastroparesis, hypertensive emergency c/b NSTEMI, ___ and 
hyperglycemia in setting of missed home medications. 

TRANSITIONAL ISSUES
===================
[] Hypertension Regimen: patient reports he has been told to 
stop Lisinopril, torsemide, metolazone; this is not well 
documented but these medications were held during admission. 
Patient is also supposed to take hydralazine 100 mg but patient 
reports headache with this dose and usually takes 50 mg at home. 
Blood pressures remain elevated and regimen should be addressed
[] consider LHC/coronary angiogram prior to transplant given 
NSTEMI 
[] Gastroparesis: Unclear work up for gastroparesis but could 
benefit from outpatient GI follow up including gastric emptying 
study. 
[] Patient has proteinuria: Please order and follow up UPEP/SPEP

ACUTE ISSUES: 
============= 
#Nausea, vomiting 
#Gastroparesis flare
Patient admitted for significant nausea/vomiting that started 
abruptly after eating breakfast ___. States that he has had 
multiple similar prior episodes requiring admission to ___ and 
has been told it is gastroparesis. No other specific infectious 
signs/symptoms. Received 4L IVF. Symptoms improved with 
metoclopramide. Patient was seen by nutrition who discussed 
dietary modifications with patient and wife. 

#NSTEMI 
Likely Type II in setting of hypertensive emergency given SBPs 
220s/110s at OSH + poor clearance in setting of CKD. ___ had 
echo and stress without concerning findings while getting worked 
up for kidney transplant. Does not have hx of CAD. Troponins 
peaked at 0.1. Has not had a LHC though this has been discussed 
previously as an outpatient. 

___ on CKD 
Being worked up for kidney transplant. Admission Cr 5.7 with 
baseline Cr ~5. Likely pre-renal in setting of hypovolemia from 
vomiting. No electrolyte abnormalities/urgent indication for 
dialysis. Has appointment with transplant team on ___. ___ 
improved with IVF. 

#Hyperglycemia 
#Type II DM 
Patient found to be hyperglycemic to 400s at ___ in setting of 
stopping his insulin while unable to tolerate any PO. Restarted 
home Levemir 24u with breakfast, 10u with dinner + ISS. 

#Hypertension 
Patient with hypertensive urgency at OSH s/p IV hydralazine and 
IV labetalol. Now back on home regimen. Patient reports he has 
been told to stop torsemide, aspirin, Lisinopril (though recent 
Cardiology note conflicts with this). Continued home hydralazine 
100 mg PO TID, Metoprolol Succinate XL 25 mg PO DAILY. 

# Leukocytosis
Elevated to 16.4 and does report history of 1x episode dysuria. 
UA unrevealing for infection. UCx, BCx without growth. 

CHRONIC ISSUES: 
=============== 
# OSA
Patient with known OSA. Continued CPAP in house.

CORE MEASURES 
============= 
#CODE: Full presumed
#CONTACT: ___ ___

>30 min spent on discharge planning including face to face time. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HydrALAZINE 100 mg PO TID 
2. Metoprolol Succinate XL 150 mg PO DAILY 
3. Rosuvastatin Calcium 20 mg PO QPM 
4. levemir 24 Units Breakfast
levemir 10 Units Bedtime
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  Metoclopramide 10 mg PO BID:PRN nausea 
RX *metoclopramide HCl 10 mg 1 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0 
2.  HydrALAZINE 50 mg PO TID 
please talk to your primary care and kidney doctors about this 
change 
RX *hydralazine 50 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
3.  Calcitriol 0.25 mcg PO DAILY  
4.  levemir 24 Units Breakfast
levemir 10 Units Bedtime 
5.  Metoprolol Succinate XL 150 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Rosuvastatin Calcium 20 mg PO QPM  
8.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
Gastroparesis 
Type II Diabetes Mellitus 

SECONDARY DIAGNOSES
====================
___ on CKD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for nausea and vomiting
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - While you were in the hospital, we found that you had very 
high blood pressure, some evidence of heart damage (likely 
because of the high blood pressure) and high blood sugars. 

 - Your nausea/vomiting improved with anti-nausea medications 
and fluids. We suspect it is because of gastroparesis. 

 - Your lab work showed evidence of kidney damage, so we had our 
kidney doctors ___. 
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  
 
Followup Instructions:
___